US07262185B2
To a solution of 7-[4-(2-butoxyethoxy)phenyl]-2,3-dihydro-1H-1-benzazepine-4-carboxylic acid (12.5 g) in THF (150 ml) were added triethylamine (18.4 ml) and trifluoroacetic acid anhydride (11.6 ml) at 0° C. and the mixture was stirred for 1 hour. To the reaction solution was added an aqueous solution of sodium bicarbonate at room temperature and the mixture was stirred for overnight. To the reaction solution, 1N hydrochloric acid was added to adjust pH to 7 and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over magnesium sulfate and concentrated under reduced pressure, and the precipitated crystals were collected by filtration. The crystals were washed with hexane, to give 7-[4-(2-butoxyethoxy)phenyl]-1-trifluoroacetyl-2,3-dihydro-1H-1-benzazepine-4-carboxylic acid (11.19 g) as colorless crystals.

reactant | 7-[4-(2-butoxyethoxy)phenyl]-2,3-dihydro-1H-1-benzazepine-4-carboxylic acid | 12.5 g | C(CCC)OCCOC1=CC=C(C=C1)C=1C=CC2=C(C=C(CCN2)C(=O)O)C1 | C23H27NO4
reactant | trifluoroacetic acid anhydride | 11.6 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | THF | 150 ml | C1CCOC1 | C4H8O
solvent | triethylamine | 18.4 ml | C(C)N(CC)CC | C6H15N
product | 7-[4-(2-butoxyethoxy)phenyl]-1-trifluoroacetyl-2,3-dihydro-1H-1-benzazepine-4-carboxylic acid | 11.19 g | C(CCC)OCCOC1=CC=C(C=C1)C=1C=CC2=C(C=C(CCN2C(C(F)(F)F)=O)C(=O)O)C1 | C25H26F3NO5
